US04382141
Trans-4-(3-bromophenoxy)-1-methyl-3-phenylpiperidine fumurate
To a mixture of 4.78 g of cis-1-methyl-3-phenyl-4-piperidinol, 4.76 g of m-bromophenol, 7.21 g of triphenylphosphine and 125 ml of anhydrous benzene is added, dropwise at 5°-10° C. under nitrogen over a 45-minute period, a solution of 4.79 g of diethyl azodicarboxylate in benzene (100 ml). After the addition is complete the mixture is stirred overnight at room temperature, filtered and concentrated in vacuo. The residue is triturated overnight in a stoppered flask with hexane (250 ml). The hexane is decanted and the gummy solid triturated with 2:1/petroleum ether:ether solution to give a well-formed solid. The solid is washed with 2:1/petroleum ether:ether. The filtrates are combined and concentrated in vacuo to give a residue which is dissolved in ether (250 ml). The ether solution is extracted with 2 N hydrochloric acid (1×100 ml, 1×50 ml). The acid extracts are washed with ether (50 ml) and extracted with dichloromethane (1×100 ml, 1×50 ml). The dichloromethane extracts are washed with 10% aqueous sodium hydroxide solution (100 ml), water (100 ml), saturated sodium chloride solution (100 ml), dried overnight over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford an orange gum. Chromatography of the gum on 230 g of silica gel, using 25% methanol/acetone solution as solvent, gives a yellow gum. The latter is dissolved in ether (75 ml) and treated dropwise with a solution of 1.33 g of fumaric acid in a mixture of 30 ml of absolute ethanol and 105 ml of ether. After stirring overnight the mixture is filtered and the solid washed with ether and dried to afford a salt. Recrystallization from isopropanol (35 ml) affords product as a colorless, crystalline solid, mp 158.5°-160.5° C. dec.

reactant | cis-1-methyl-3-phenyl-4-piperidinol | 4.78 g | CN1C[C@H]([C@H](CC1)O)C1=CC=CC=C1 | C12H17NO
reactant | m-bromophenol | 4.76 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | triphenylphosphine | 7.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.79 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | fumaric acid | 1.33 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | methanol acetone | CO.CC(=O)C
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ether | 105 ml | CCOCC | C4H10O
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | Trans-4-(3-bromophenoxy)-1-methyl-3-phenylpiperidine | BrC=1C=C(O[C@H]2[C@@H](CN(CC2)C)C2=CC=CC=C2)C=CC1 | C18H20BrNO
